US07825132B2
2-Amino-6-methoxy-benzonitrile
A 7-Fluoroquinolinone derivative in a 8 M solution of MeNH2 in EtOH:NMP (1:1), was submitted to microwave irradiation 4 times for 5 minutes at 220° C. After cooling, water was added, and the mixture was extracted with EtOAc. The organic extracts were collected and dried over Na2SO4. Evaporation of the solvent under reduced pressure and purification of the residue by reverse phase preparative HPLC afforded the desired product. Other primary and secondary amines were used neat, 1:1 with NMP.

reactant | 7-Fluoroquinolinone | FC1=CC=C2C=CC(NC2=C1)=O | C9H6FNO
reactant | MeNH2 | CN | CH5N
reactant | water | O | H2O
reactant | EtOH NMP | CCO.CN1CCCC1=O
product | 2-Amino-6-methoxy-benzonitrile | NC1=C(C#N)C(=CC=C1)OC | C8H8N2O
